US06583153B2
6-(N-Benzyl-N-methylaminomethyl)-7-bromo-1-(2,6-difluorobenzyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethylester
A mixture of 7-bromo-6-bromomethyl-1-(2,6-difluorobenzyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester (110 mg, 0.21 mmol), methylbenzylamine (31 mg, 0.26 mmol) in DIPEA (0.045 mL) and DMF (15 mL) was stirred at room temperature for 16 h. Ethyl acetate and water were added. The organic phase was separated and washed with water, dried with MgSO4. The solvent was evaporated and the residue dried under vacuum to yield the product as a white solid.

reactant | 7-bromo-6-bromomethyl-1-(2,6-difluorobenzyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester | 0.21 mmol, 110 mg | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)CBr)Br)CC1=C(C=CC=C1F)F | C20H15Br2F2NO3
reactant | methylbenzylamine | 0.26 mmol, 31 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | DIPEA | 0.045 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 6-(N-Benzyl-N-methylaminomethyl)-7-bromo-1-(2,6-difluorobenzyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethylester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)CN(C)CC1=CC=CC=C1)Br)CC1=C(C=CC=C1F)F | C28H25BrF2N2O3
